US07622583B2
To a solution of N-(2-bromo-5-methyl-pyridin-3-yl)-4-chloro-N-methoxymethyl -3-trifluoromethyl-benzenesulfonamide (472 mg, 1.0 mmol) in THF (3 mL) under nitrogen atmosphere at 0° C. was added dropwise isopropylmagnesium chloride (2 M solution in THF, 1.2 mL, 2.4 mmol). The mixture was then stirred for 30 min at 0° C. followed by the addition of a solution of 2-chloro-5-nitro-benzaldehyde (352.6 mg, 1.9 mmol) at 0° C. The mixture was stirred at room temperature for 3 hours, quenched with saturated aqueous NH4Cl solution (5 mL) and extracted with EtOAc (2×25 mL). Combined organic layers were washed with saturated aqueous NH4Cl solution (25 mL), brine (25 mL), dried (anhydrous Na2SO4) and concentrated under reduced pressure. Obtained residue was column purified (SiO2, 50% EtOAc-hexanes) to obtain 4-chloro-N-{2-[(2-chloro-5-nitro-phenyl)-hydroxy-methyl]-5-methyl-pyridin-3-yl}-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide (441 mg) in 76% yield. ESMS m/z (relative intensity): 580 (M+H)+ (100), 602 (M+Na)+ (20).

reactant | N-(2-bromo-5-methyl-pyridin-3-yl)-4-chloro-N-methoxymethyl -3-trifluoromethyl-benzenesulfonamide | 1.0 mmol, 472 mg | BrC1=NC=C(C=C1N(S(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F)COC)C | C15H13BrClF3N2O3S
reactant | isopropylmagnesium chloride | 2.4 mmol, 2 M, 1.2 mL | C(C)(C)[Mg]Cl
reactant | 2-chloro-5-nitro-benzaldehyde | 1.9 mmol, 352.6 mg | ClC1=C(C=O)C=C(C=C1)[N+](=O)[O-] | C7H4ClNO3
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 4-chloro-N-{2-[(2-chloro-5-nitro-phenyl)-hydroxy-methyl]-5-methyl-pyridin-3-yl}-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide | 441 mg, 76% yield | ClC1=C(C=C(C=C1)S(=O)(=O)N(COC)C=1C(=NC=C(C1)C)C(O)C1=C(C=CC(=C1)[N+](=O)[O-])Cl)C(F)(F)F | C22H18Cl2F3N3O6S
